US07868003B2
1-[2-((R)-6,8-Dichloro-2-methyl-1,2,3,4-tetrahydroisoquinolin-4-yl)phenyl]-pyrrolidine-2,5-dione hydrochloride
(R)-2-(6,8-Dichloro-2-methyl-1,2,3,4-tetrahydroisoquinolin-4-yl)phenylamine (100 mg; enantiomer B, preparation as described in WO2004085404) was initially charged in a flask together with succinic acid (58 mg). To this was added polyphosphoric acid (approx. 2 ml). The reaction mixture was subsequently stirred at 135° C. After 4 hours, a little more succinic acid (˜9 mg) was added. After a further 2 h at 135° C., the mixture was left to stand at room temperature overnight. For workup, the mixture was poured onto ice-water, and the acidic phase was adjusted to pH 10 with saturated potassium carbonate solution and then extracted three times with ethyl acetate. The combined organic phases were washed once with water, dried over magnesium sulfate, filtered and concentrated. The crude product was purified by means of preparative HPLC. The fractions comprising product were combined, the acetonitrile was removed on a rotary evaporator, and the aqueous residue was neutralized with potassium carbonate and extracted three times with ethyl acetate. It was dried over magnesium sulfate, then filtered and concentrated to dryness. The residue was taken up with aqueous hydrochloric acid and freeze-dried.

reactant | (R)-2-(6,8-Dichloro-2-methyl-1,2,3,4-tetrahydroisoquinolin-4-yl)phenylamine | 100 mg | ClC=1C=C2[C@@H](CN(CC2=C(C1)Cl)C)C1=C(C=CC=C1)N | C16H16Cl2N2
reactant | succinic acid | 58 mg | C(CCC(=O)O)(=O)O | C4H6O4
reactant | succinic acid | ˜9 mg | C(CCC(=O)O)(=O)O | C4H6O4
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
product | 1-[2-((R)-6,8-Dichloro-2-methyl-1,2,3,4-tetrahydroisoquinolin-4-yl)phenyl]-pyrrolidine-2,5-dione hydrochloride | Cl.ClC=1C=C2[C@@H](CN(CC2=C(C1)Cl)C)C1=C(C=CC=C1)N1C(CCC1=O)=O | InChI=1S/C20H18Cl2N2O2.ClH/c1-23-10-15(14-8-12(21)9-17(22)16(14)11-23)13-4-2-3-5-18(13)24-19(25)6-7-20(24)26;/h2-5,8-9,15H,6-7,10-11H2,1H3;1H/t15-;/m0./s1
